data/specific_train_final.csv
"[CH3:1][CH2:2][O:3][CH:4]([CH3:5])[O:6][O:7][O:8][N+:9](=[O:10])[O-:11]>>[CH3:1][CH2:2][O:3][CH:4]([CH3:5])[O:6][O:7][O:8].[N+:9](=[O:10])[O-:11] 8,9-9; 8,9-8",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)C(CO[O:10])O>>[H:20][O:10]OCC(C(C)C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)OCO[O:21][O:20][N+](=O)[O-]>>CC(=O)OCO[O:21].[N+](=O)([O-])[O:20] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOCC[O:21][O:20][O].[N+](=O)[O-]>>CCOCC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(=O)CO[O:20].[N:10]=O>>COC(=O)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(C)COO[O:20][N+:21](=O)[O-]>>CC(C)C(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C=CCO[O:20])O[N+](=O)[O-].[N:10]=O>>C(C=CCO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:6][C:4]([CH2:3][O:2][OH:1])([CH:7]([CH:10]=[O:11])[O:8][OH:9])[O:5].[N+:13](=[O:14])[O-:12]>>[CH3:6][C:4]([CH2:3][O:2][OH:1])([CH:7]([CH:10]=[O:11])[O:8][OH:9])[O:5][N+:13](=[O:14])[O-:12] 13-13,5; 5-13,5",Room Temperature,Termination,recombine
"[H:5][C:4](=[O:6])[C:2]([CH3:1])([CH2:7][O:8][O:9])[OH:3]>>[H:5][O:9][O:8][CH2:7][C:2]([CH3:1])([C:4]=[O:6])[OH:3] 4,5-4;4,5-5,9;9-5,9",Room Temperature,Propagation,abstraction
[CH3:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N:15](=[O:16])[O:14]>>[CH3:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N+:15](=[O:16])[O-:14] 15-14,Room Temperature,Propagation,ha resonance
"CC1=CC(=C([C:10](C1O[N+](=O)[O-])C)O)C.[O:20][O]>>CC1=CC(=C([C:10](C1O[N+](=O)[O-])(C)[O:20][O])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCOCC[O:20][O:21]N=O>>CCOCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOCCO[O:20].[N+](=O)([O-])[O:10]>>CCOCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:16][O:15][O:14][CH2:13][CH:9][O:10][O:11][H:12]>>[H:12][O:11].[H:16][O:15][O:14][CH2:13][CH:9]=[O:10] 11,10-11; 11,10-9,10; 9-9,10",Room Temperature,Propagation,retroaddition
"[H:20][CH:21](CO)OC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CO[CH:21]CO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:4])[Cl:3].[O:5][O:6]>>[H:1][C:2]([H:4])([O:5][O:6])[Cl:3] 2-2,5; 5-5,2",Room Temperature,Termination,recombine
"c1ccccc1C(CO[N+]([O-])=O)[O][O:10].[O:20][N+]([O-])=O>>c1ccccc1C(CO[N+]([O-])=O)[O][O:10][O:20][N+]([O-])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:8]([CH:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:13])[Cl:7])[O:9][N+:10](=[O:12])[O-:11]>>[CH2:8]([CH:6]([O:5][O:4][O:3])[Cl:7])[O:9][N+:10](=[O:12])[O-:11].[N+:2](=[O:1])[O-:13] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[CH3:9][CH:8]=[CH:7][C:6](=[O:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:11]>>[CH3:9][CH:8]=[CH:7][C:6](=[O:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:11] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"CCC(C)CC(C)[O:20][O:21][O]>>CCC(C)CC(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](Cl)(Cl)Cl.[OH:10]>>[H:20][OH:10].[C:21](Cl)(Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)C1C(O1)(C)C=CC(=O)CC.[OH:10]>>[H:20][OH:10].CCC(=O)C=CC1(C(O1)[C:21]=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([CH2:9][OH:10])([C:2]([CH3:1])([CH2:13][O:14][N+:15](=[O:17])[O-:16])[O:11][H:12])[O:5][O:6][N:7]=[O:8]>>[H:4][C:3]([CH2:9][OH:10])([C:2]([CH3:1])([CH2:13][O:14][N+:15](=[O:17])[O-:16])[O:11][H:12])[O:5].[N:7](=[O:8])[O:6] 6,5-5; 5,6-6",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(CO[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(C)(C)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:2]([O:3][O:4][O:5])[Br:1].[N+:7](=[O:6])[O-:8]>>[CH2:2]([O:3])[Br:1].[N+:7](=[O:6])[O-:8].[O:4][O:5] 3,4-4; 3,4-3",Room Temperature,Initiation,homolyze
"CC12C=C[C:10](C(C1O[N+](=O)[O-])(OO2)C)O.[O:20][O]>>CC12C=C[C:10](C(C1O[N+](=O)[O-])(OO2)C)(O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)C)[O:20][O:21]N=O>>CCC(C(C)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)CCOO[O:20][N+:21](=O)[O-]>>C1=CC=C(C=C1)CCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(O[O:20])(Cl)Cl.[N+](=O)([O-])[O:10]>>CC(O[O:20][O:10][N+](=O)[O-])(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2](=[CH2:10])[CH:3]([CH2:4][OH:5])[O:6][N+:7](=[O:9])[O-:8].[OH:11]>>[CH3:1][C:2]([CH2:10][OH:11])[CH:3]([CH2:4][OH:5])[O:6][N+:7](=[O:9])[O-:8] 11-10,11;2,10-10,11;2,10-2",Room Temperature,Propagation,addition
